US09120749B2
tert-Butyl trans-4-[3-acetyl-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-(3-acetyl-6-bromoquinolin-4-ylamino)cyclohexylcarbamate (56 mg, 0.200 mmol) was reacted with 2-chloro-6-methoxy-4-(3,3,4,4-tetramethylborolan-1-yl)phenol (47 mg, 0.100 mmol) to afford the desired product (35 mg, 65%) as a yellow solid: ESI MS m/z 541 [C29H34ClN3O5+H]+.

reactant | tert-butyl trans-4-(3-acetyl-6-bromoquinolin-4-ylamino)cyclohexylcarbamate | 0.200 mmol, 56 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)Br | C22H28BrN3O3
reactant | 2-chloro-6-methoxy-4-(3,3,4,4-tetramethylborolan-1-yl)phenol | 0.100 mmol, 47 mg | ClC1=C(C(=CC(=C1)B1CC(C(C1)(C)C)(C)C)OC)O | C15H22BClO2
product | tert-Butyl trans-4-[3-acetyl-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 35 mg, 65% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)OC)O)Cl | C29H34ClN3O5
